US08487108B2
At 0° C., tert-butyl (2S)-1-hydroxy-3-(tetrahydro-2H-pyran-2-yl)propan-2-ylcarbamate (1.41 g, 5.44 mmol) in CH2Cl2 (50 mL) was treated with Et3N (2.3 mL, 16.3 mmol) followed by methanesulfonyl chloride (1.1 mL, 13.6 mmol). The reaction was allowed to stir for 1 h and quenched with water. The organic layer was washed with satd aq NaHCO3 and brine, dried over Na2SO4, and filtered. After removal of solvent, the crude material was purified using chromatography on silica gel (EtOAc/Hex) to afford (2S)-2-(tert-butoxycarbonylamino)-3-(tetrahydro-2H-pyran-2-yl)propyl methanesulfonate (0.90 g) as a solid. MS m/z 360 (M+Na).

reactant | tert-butyl (2S)-1-hydroxy-3-(tetrahydro-2H-pyran-2-yl)propan-2-ylcarbamate | 5.44 mmol, 1.41 g | OC[C@H](CC1OCCCC1)NC(OC(C)(C)C)=O | C13H25NO4
reactant | Et3N | 16.3 mmol, 2.3 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 13.6 mmol, 1.1 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (2S)-2-(tert-butoxycarbonylamino)-3-(tetrahydro-2H-pyran-2-yl)propyl methanesulfonate | 0.90 g | CS(=O)(=O)OC[C@H](CC1OCCCC1)NC(=O)OC(C)(C)C | C14H27NO6S
